US06022906
1-{4-[2-(2-Mercapto-ethylthio)-ethylthio]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one
25.7 g (0.15 mol) of 2-mercaptoethylsulfide (purity 90%) are added to a suspension of 8.3 g (0.06 mol) of potassium carbonate in 50 ml of dimethylacetamide. A solution of 8.0 g (0.03 mol) 1-(4-chlorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one in 25 ml of dimethylacetamide is added dropwise at 85° C. over 60 min. After stirring for 5 h, the reaction mixture is cooled, diluted with ethyl acetate (100 ml), extracted with water (3×100 ml) to remove the carbonate and dimethylacetamide, dried over MgSO4, and concentrated under vacuum. The resulting yellow liquid (stench) is purified by flash chromatography on silica gel (hexane/ethyl acetate 85:15) to yield a pale yellow oil. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.31 (s, 6H), 1.750 (t, SH), 2.57 (t, 4H), 2.71-2.85 (m, 6H), 3.20 (t, 2H), 3.70 (t, 4), 7.31 (d, 2H), 8.51 (d, 2H).

reactant | 2-mercaptoethylsulfide | 0.15 mol, 25.7 g | SCCSCCS | C4H10S3
reactant | potassium carbonate | 0.06 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-chlorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one | 0.03 mol, 8.0 g | ClC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18ClNO2
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-{4-[2-(2-Mercapto-ethylthio)-ethylthio]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one | SCCSCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C18H27NO2S3
